US06248738B1
A solution of N-chlorosuccinimide (9.66 g, 72 mmol) in acetonitrile (MeCN) (80 mL) was added dropwise to a stirred solution of 1-(2H)-isoquinolone (10 g, 69 mmol) in MeCN (250 mL) which was being heated under reflux. The mixture was heated under reflux for an additional 1.5 h and then cooled to room temperature. The resulting precipitate was collected by filtration, with MeCN rinsing, and then dried in vacuo to give 4-chloro-1(2H)-isoquinolone (11.3 g, 62.9 mmol) as a pale pink solid.

reactant | N-chlorosuccinimide | 72 mmol, 9.66 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 1-(2H)-isoquinolone | 69 mmol, 10 g | C1(NC=CC2=CC=CC=C12)=O | C9H7NO
solvent | acetonitrile | 80 mL | C(C)#N | C2H3N
solvent | MeCN | 250 mL | CC#N | C2H3N
product | 4-chloro-1(2H)-isoquinolone | 62.9 mmol, 11.3 g | ClC1=CNC(C2=CC=CC=C12)=O | C9H6ClNO
